* mostek wiena analiza stanow nieustalonych
VSRC V1 VCC 0 type=sin val=10.0 freq=159.155

* szeregowe RC
RES R1 VCC N_SER val=1000
CAP C1 N_SER N_LEFT val=1e-6

* rownolegle RC
RES R2 N_LEFT 0 val=1000
CAP C2 N_LEFT 0 val=1e-6

* dzielnik
RES R3 VCC N_RIGHT val=2000
RES R4 N_RIGHT 0 val=1000

* obciazenie
RES R_LOAD N_LEFT N_RIGHT val=500

* probkowanie co 100 mikrosekund
.SIMULATE type=trans tstop=0.03 tstep=0.0001